US08022062B2
(±)-1-(3-Methyl-pyridin-2-yl)ethanol:
Dissolve N,N-dimethylethanolamine (70.45 mmol) in hexane (90 mL) at 0° C., add 2.5M n-butyl lithium in hexane (140.9 mmol,) and stir for 30 min at this temperature. Add a solution of 3-picoline (35.23 mmol) in hexane (10 mL) and continue stirring at 0° C. for 1 h. Cool the resulting mixture to −78° C., add acetaldehyde (70.45 mmol) and continue stirring at −78° C. for 1 h. Dilute with water, warm to ambient temperature, extract three times with EtOAc, dry over anhydrous Na2SO4, and concentrate in vacuo. Purify by chromatography eluting with hexane/EtOAc (85:15) to give the desired intermediate as a light yellow oil.

reactant | N,N-dimethylethanolamine | 70.45 mmol | CN(CCO)C | C4H11NO
reactant | n-butyl lithium | 2.5M | C(CCC)[Li]
reactant | 3-picoline | 35.23 mmol | N1=CC(=CC=C1)C | C6H7N
reactant | acetaldehyde | 70.45 mmol | C(C)=O | C2H4O
solvent | hexane | 90 mL | CCCCCC | C6H14
solvent | hexane | 10 mL | CCCCCC | C6H14
solvent | water | O | H2O
solvent | hexane | 140.9 mmol | CCCCCC | C6H14
product | (±)-1-(3-Methyl-pyridin-2-yl)ethanol | CC=1C(=NC=CC1)C(C)O | C8H11NO
